US06784323B2
(R)-3-[1-(4-Bromo-benzyl)-5-methoxy-2-methyl-1H-indol-3-yl]-butyric acid (4):
A solution of (R)-3-[1-(4-Bromo-benzyl)-5-methoxy-2-methyl-1H-indol-3-yl]-butanal (110 mg, 0.250 mmol) and silver nitrate (59.7 mg, 0.275 mmol) in 1.3 ml absolute ethanol was treated with a solution of 5N NaOH in ethanol (1:5, 0.9 ml, 0.75 mmol NaOH). After 45 min this was treated with 10 ml water, acidified to pH 3 and extracted with CHCl3 (5×20 ml) rinsing each extract with brine. The combined organics were dried over Na2SO4 and concentrated in vacuo to provide, after silica gel chromatography the title compound as a pale yellow solid (101 mg, 97% yield). IR (film) 3425, 2961, 2934, 2833, 1706, 1483, 1451, 1405, 1228, 1156, 1010, 796, 755 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.36 (d, J=9.0 Hz, 2H, ArH), 7.11 (d, J=2.4 Hz, 1H, ArH), 7.04 (d, J=8.7, 1H, ArH), 6.77-6.73 (m, 3H, ArH), 5.18 (s, 2H NCH2), 3.86 (s, 3H, OCH3) 3.56 (dt, J=7.2, 21.9 Hz, 1H ArCH), 2.86 (d, J=3.6 Hz, 1H, CH2CO); 2.83 (d, J=3.3 Hz, 1H, CH2CO); 2.27 (s, 3H, ArCH3) 1.49 (d, J=7.2 Hz, 3H, CHCH3); 13C NMR (75 MHz, CDCl3) δ 178.0, 153.7, 137.3, 133.8, 133.0, 132.0, 127.7, 126.7, 121.2, 118.8, 114.6, 110.1, 109.9, 102.4, 56.3, 46.3, 41.5, 28.6, 21.1, 10.9; HRMS (CI) exact mass calcd for (C21H23BrNO3) (M+1) requires m/z 416.0861, found m/z 416.0867. [α]D=−30.9 (c=1.0, CHCl3).

reactant | (R)-3-[1-(4-Bromo-benzyl)-5-methoxy-2-methyl-1H-indol-3-yl]-butanal | 0.250 mmol, 110 mg | BrC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)[C@@H](CC=O)C)C)C=C1 | C21H22BrNO2
reactant | NaOH | 5N | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 1.3 ml | C(C)O | C2H6O
catalyst | silver nitrate | 0.275 mmol, 59.7 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | ethanol | 0.75 mmol, 0.9 ml | C(C)O | C2H6O
product | (R)-3-[1-(4-Bromo-benzyl)-5-methoxy-2-methyl-1H-indol-3-yl]-butyric acid | 101 mg, 97% yield | BrC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)[C@@H](CC(=O)O)C)C)C=C1 | C21H22BrNO3
